US04880801
(b) (±)-(trans)-2,3,3a,9a-Tetrahydro-5-nitro-1H-[1,4]-benzodioxino[2,3-c]pyrrole hydrochloride
A solution of (±)-(trans)-2-[bis(4-methoxyphenyl)methyl]-2,3,3a,9a-tetrahydro-5-nitro-1H-[1,4]benzodioxino[2,3-c]pyrrole (1.12 g) in formic acid (10 ml) was heated under reflux with 10M hydrochloric acid (0.5 ml), water (1 ml) and chloroform (5 ml) for 70 minutes. The maroon mixture was cooled and partitioned between chloroform (20 ml) and water (10 ml). The chloroform layer was re-extracted with water (10 ml) and the aqueous solutions were sequentially washed with chloroform (20 ml), combined and evaporated to ca. 2 ml, when crystals formed. These were triturated with warm propan-1-ol (5 ml), cooled to 20° for 1 hour and harvested to give a first crop of the title compound (0.58 g). Concentration of the mother liquor gave a small second crop (0.03 g). Recrystallisation of the first crop from slightly aqueous propan-1-ol gave purer title compound (0.54 g) m.p. ca. 280° (dec.).

reactant | (±)-(trans)-2-[bis(4-methoxyphenyl)methyl]-2,3,3a,9a-tetrahydro-5-nitro-1H-[1,4]benzodioxino[2,3-c]pyrrole | 1.12 g | COC1=CC=C(C=C1)C(N1C[C@H]2[C@H](C1)OC1=C(O2)C=CC=C1[N+](=O)[O-])C1=CC=C(C=C1)OC | C25H24N2O6
reactant | hydrochloric acid | 10M, 0.5 ml | Cl | ClH
reactant | water | 1 ml | O | H2O
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | (±)-(trans)-2,3,3a,9a-Tetrahydro-5-nitro-1H-[1,4]-benzodioxino[2,3-c]pyrrole hydrochloride | 0.58 g | Cl.[N+](=O)([O-])C1=CC=CC=2O[C@H]3CNC[C@@H]3OC21 | InChI=1S/C10H10N2O4.ClH/c13-12(14)6-2-1-3-7-10(6)16-9-5-11-4-8(9)15-7;/h1-3,8-9,11H,4-5H2;1H/t8-,9-;/m0./s1
